US07662826B2
To a mixture of 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester (18.00 g), 120 ml of methanol, and 120 ml of tetrahydrofuran, 60 ml of a 2N aqueous sodium hydroxide solution was added, and stirred at room temperature over 2 hours. To the reactant, 60 ml of 2N hydrochloride was added dropwise, and the precipitated crystal was filtered to yield 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid (14.02 g, 86%) as a yellow crystal.

reactant | 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid ethyl ester | 18.00 g | C(C)OC(=O)C1=NC=2N(C=C1)N=CC2C2=CC(=CC=C2)Cl | C15H12ClN3O2
reactant | methanol | 120 ml | CO | CH4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloride | 2N, 60 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 3-(3-chlorophenyl)-pyrazolo-[1,5-a]-pyrimidine-5-carboxylic acid | 14.02 g, 86% | ClC=1C=C(C=CC1)C=1C=NN2C1N=C(C=C2)C(=O)O | C13H8ClN3O2
